US07825135B2
tert-Butyl 4-{[(2,4-dichlorobenzoyl)amino]methyl}-4-(6-fluoropyridin-2-yl)piperidine-1-carboxylate
tert-Butyl 4-(aminomethyl)-4-(6-fluoropyridin-2-yl)piperidine-1-carboxylate (0.82 mmol) was acylated with 2,4-dichlorobenzoyl chloride (0.12 mL, 0.82 mmol) using the method described in example 8-1 to afford the desired product: tert-butyl 4-{[(2,4-dichlorobenzoyl)amino]methyl}-4-(6-fluoropyridin-2-yl)piperidine-1-carboxylate: 1H NMR δ (ppm)(CDCl3): 7.81 (1 H, q, J=8.0 Hz), 7.61 (1 H, d, J=8.3 Hz), 7.38 (1 H, d, J=1.9 Hz), 7.29 (1 H, dd, J=8.0, 2.0 Hz), 7.24 (1 H, dd, J=7.7, 2.7) 6.82 (1 H, dd, J=3.0, 8.1 Hz), 6.69 (1 H, m), 3.80 (1 H, br s) 3.68-3.62 (2 H, m), 3.40-3.34 (2 H, m), 2.22-2.16 (2 H, m), 1.87-1.81 (2 H, m), 1.45 (9 H, s).

reactant | tert-Butyl 4-(aminomethyl)-4-(6-fluoropyridin-2-yl)piperidine-1-carboxylate | 0.82 mmol | NCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC(=CC=C1)F | C16H24FN3O2
reactant | 2,4-dichlorobenzoyl chloride | 0.82 mmol, 0.12 mL | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
product | tert-Butyl 4-{[(2,4-dichlorobenzoyl)amino]methyl}-4-(6-fluoropyridin-2-yl)piperidine-1-carboxylate | ClC1=C(C(=O)NCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=NC(=CC=C2)F)C=CC(=C1)Cl | C23H26Cl2FN3O3
